US04168311
2-Methyl-4-dimethylaminocarbonyloxy-quinoline-1 oxide
23 g (0.1 mole) of 2-methyl-4-dimethylaminocarbonyloxyquinoline were dissolved in 150 ml of dry chloroform free of alcohol and, while stirring and externally cooling with ice-water, 25 g 3-chloroperbenzoic acid (70% strength) dissolved in 400 ml chloroform were added dropwise.

reactant | 2-methyl-4-dimethylaminocarbonyloxyquinoline | 0.1 mole, 23 g | CC1=NC2=CC=CC=C2C(=C1)OC(=O)N(C)C | C13H14N2O2
reactant | 3-chloroperbenzoic acid | 25 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Methyl-4-dimethylaminocarbonyloxy-quinoline-1 oxide | CC1=[N+](C2=CC=CC=C2C(=C1)OC(=O)N(C)C)[O-] | C13H14N2O3
